US05334606
a) L-Tryptophan 3,5-Bistrifluoromethylbenzylamide Hydrochloride
To a stirred solution of N-Boc-L-tryptophan (5 g) and 1-hydroxybenzotriazole (2.48 g) in dimethyl formamide (85 ml) was added 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride (3.15 g) at 0° C. After 30 minutes 3,5-bistrifluoromethylbenzylamine (4.43 g) was added and stirring continued for 16 hours at 25° C. The reaction mixture was diluted with dichloromethane and washed with sodium bicarbonate solution, water and dried (Na2SO4). The solvents were evaporated in vacuo to give a white solid which was dissolved in methanolic hydrogen chloride and allowed to stand for 16 hours. Concentration under reduced pressure afforded the title compound as a solid.

reactant | N-Boc-L-tryptophan | 5 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C16H20N2O4
reactant | 1-hydroxybenzotriazole | 2.48 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride | 3.15 g | Cl.CN(CCCN=C=NCC)C
reactant | 3,5-bistrifluoromethylbenzylamine | 4.43 g | FC(C=1C=C(CN)C=C(C1)C(F)(F)F)(F)F | C9H7F6N
solvent | dimethyl formamide | 85 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | hydrogen chloride | Cl | ClH
product | L-Tryptophan 3,5-Bistrifluoromethylbenzylamide Hydrochloride | Cl.FC(C=1C=C(CNC([C@@H](N)CC2=CNC3=CC=CC=C23)=O)C=C(C1)C(F)(F)F)(F)F | InChI=1S/C20H17F6N3O.ClH/c21-19(22,23)13-5-11(6-14(8-13)20(24,25)26)9-29-18(30)16(27)7-12-10-28-17-4-2-1-3-15(12)17;/h1-6,8,10,16,28H,7,9,27H2,(H,29,30);1H/t16-;/m0./s1
